US07235574B2
iv) 1-[2-(4-{2-[(E)-2-(-4-Pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl-methoxy)-ethyl]-1H-[1,2,3]triazole
14 mg (0.50 mmol) 95% sodium hydride were given to a solution of 110 mg (0.50 mmol) 4-(2-[1,2,3]Triazol-1-yl-ethoxymethyl)-phenol in 4.0 ml DMF and stirred for 15 min. 173 mg (0.50 mmol) 4-chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole were added and stirring continued at r.t. overnight. After addition of 10 ml water the resulting precipitate was washed twice with 10 ml water, 2×10 ml methanol, diethyl ether and dried at 45° C. in vacuum. Yield 155 mg (59%) colorless powder.

reactant | sodium hydride | 0.50 mmol, 14 mg | [H-].[Na+]
reactant | 4-(2-[1,2,3]Triazol-1-yl-ethoxymethyl)-phenol | 0.50 mmol, 110 mg | N1(N=NC=C1)CCOCC1=CC=C(C=C1)O | C11H13N3O2
reactant | 4-chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole | 0.50 mmol, 173 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(F)(F)(F)(F)F | C12H9ClF5NOS
reactant | water | 10 ml | O | H2O
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
product | 1-[2-(4-{2-[(E)-2-(-4-Pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl-methoxy)-ethyl]-1H-[1,2,3]triazole | FS(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)COCCN1N=NC=C1)(F)(F)(F)F | C23H21F5N4O3S
